US06949571B2
3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-dimethylaminoethoxyphenyl)-1,2-dihydropyridin-2-one
3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-hydroxyphenyl)-1,2-dihydropyridin-2-one (82 mg) and 57 mg of N,N-dimethylaminoethyl chloride were dissolved in 2 ml of dimethylformamide, 55 mg of potassium carbonate were added thereto at 60° C. and the mixture was stirred for one night. The reaction solution was diluted with water and extracted with ethyl acetate. The organic layer was washed with a saturated saline solution and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated in vacuo and purified by an NH silica gel column chromatography (hexane-ethyl acetate system) to give 27 mg of the title compound.

reactant | 3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-hydroxyphenyl)-1,2-dihydropyridin-2-one | 82 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=C(C=C1)O)=O | C22H15ClN2O2
reactant | N,N-dimethylaminoethyl chloride | 57 mg | CN(C)CCCl | C4H10ClN
reactant | potassium carbonate | 55 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-dimethylaminoethoxyphenyl)-1,2-dihydropyridin-2-one | 27 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=C(C=C1)OCCN(C)C)=O | C26H24ClN3O2
